US04186135
166 g of 7-mercapto-1,4-benzodioxane-5-carboxylic acid, 242 cm3 of water, 216 cm3 of soda lye and 181 g of ethylsulfate were introduced into a balloon flask provided with a condenser. The mixture was heated under reflux and then cooled. The solution was poured into 1.3 l of water, filtered and treated with 110 cm3 of hydrochloric acid. The precipitate was dried off, washed with water and dried. 152 g of 7-ethylthio-1,4-benzodioxane-5-carboxylic acid were obtained (M.P.: 153°-154° C.; yield: 81%).

reactant | 7-mercapto-1,4-benzodioxane-5-carboxylic acid | 166 g | SC=1C=C(C2=C(OCCO2)C1)C(=O)O | C9H8O4S
reactant | ethylsulfate | 181 g | C(C)OS(=O)(=O)[O-]
solvent | water | 1.3 l | O | H2O
solvent | water | 242 cm3 | O | H2O
product | 7-ethylthio-1,4-benzodioxane-5-carboxylic acid | 152 g, yield: 81% | C(C)SC=1C=C(C2=C(OCCO2)C1)C(=O)O | C11H12O4S
